US05466692
Methyl[2,6-dimethyl-4-[(2'-(1-tert-butyl- 1H-tetrazol-5-yl)biphenyl-4-ylmethyl)amino]pyrimidin-5-yl]ketone
To a heated solution of methyl(4-(4-bromobenzylamino)-2,6-dimethylpyrimidin-5-yl)ketone (1.67 g, 5.00 mmol) and tetrakis(triphenylphosphine) palladium(0) (0.29 g, 0.25 mmol) in toluene (20 mL) was added a partial solution of 2-[(1-tert-butyl)-1H-tetrazol-5-yl]phenylboronic acid (1.50 g, 6.10 mmol) (prepared according to J. W. Ellingboe, et al. U.S. Pat. No. 5,149,699) and Na2CO3 (1.06 g, 10.00 mmol) in water (10 mL) and EtOH (5 mL) in several portions over 1 h. Heating was continued for 2.5 h. The mixture was diluted with EtOAc and the layers were separated. The organic phase was washed with 0.1N NaOH, brine, dried MgSO4) and concentrated. Purification by flash chromatography (40-50% EtOAc/hexane) and trituration with hexane gave 1.71 g (75% ) of product as a white solid. An analytical sample was recrystallized from ether, mp 131°-132° C.

reactant | methyl(4-(4-bromobenzylamino)-2,6-dimethylpyrimidin-5-yl)ketone | 5.00 mmol, 1.67 g | CC(=O)C=1C(=NC(=NC1C)C)NCC1=CC=C(C=C1)Br | C15H16BrN3O
reactant | 2-[(1-tert-butyl)-1H-tetrazol-5-yl]phenylboronic acid | 6.10 mmol, 1.50 g | C(C)(C)(C)N1N=NN=C1C1=C(C=CC=C1)B(O)O | C11H15BN4O2
reactant | Na2CO3 | 10.00 mmol, 1.06 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 10 mL | O | H2O
solvent | EtOH | 5 mL | CCO | C2H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.25 mmol, 0.29 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | Methyl[2,6-dimethyl-4-[(2'-(1-tert-butyl- 1H-tetrazol-5-yl)biphenyl-4-ylmethyl)amino]pyrimidin-5-yl]ketone | 1.71 g, 75% | CC(=O)C=1C(=NC(=NC1C)C)NCC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C)(C)C | C26H29N7O
